US06627651B1
Into a solution of N-methyl-N-(tetrahydropyran-4-yl)-4-(hydroxymethyl)benzylamine (0.68 g) and triphenylphosphine (0.91 g) in dichloromethane (10 ml) was added under ice cooling carbon tetrabromide (1.44 g), and the resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was mixed with an aqueous solution of sodium bicarbonate under ice cooling and was extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride, was dried (anhydrous magnesium sulfate) and was concentrated under reduced pressure. The residue was subjected to purification using silica gel column chromatography (ethyl acetate/hexane 1/9) and further to washing with diethyl ether/hexane to obtain N-methyl-N-(tetrahydropyran-4-yl)-4-(bromomethyl)benzylamine (687 mg) as a white solid.

reactant | N-methyl-N-(tetrahydropyran-4-yl)-4-(hydroxymethyl)benzylamine | 0.68 g | CN(C1CCOCC1)CC1=CC=C(C=C1)CO | C14H21NO2
reactant | triphenylphosphine | 0.91 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.44 g | C(Br)(Br)(Br)Br | CBr4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-methyl-N-(tetrahydropyran-4-yl)-4-(bromomethyl)benzylamine | 687 mg | CN(C1CCOCC1)CC1=CC=C(C=C1)CBr | C14H20BrNO
